US07652133B2
ethyl {4-[(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetate
To a solution of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (0.460 g) in N,N-dimethylformamide (12 ml) were added ethyl piperazin-1-ylacetate (0.385 g) and triethylamine (0.31 ml), and the mixture was stirred at room temperature for 15 hr. Saturated aqueous ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran-hexane to give the title compound (0.507 g, yield 83%) as colorless crystals.

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.460 g | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C16H12ClN3O2S3
reactant | ethyl piperazin-1-ylacetate | 0.385 g | N1(CCNCC1)CC(=O)OCC | C8H16N2O2
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | ethyl {4-[(2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetate | 0.507 g, yield 83% | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCN(CC1)CC(=O)OCC | C24H27N5O4S3
